US07199272B2
Woods et al. (U.S. Pat. No. 5,019,629) describe a two-step procedure for preparing p-(2-hydroxyethoxy)styrene starting with p-hydroxybenzaldehyde. In the first step, p-(2-hydroxyethoxy)benzaldehyde is formed by reacting p-hydroxybenzaldehyde with ethylene carbonate in the presence of potassium carbonate. In the second step, p-(2-hydroxyethoxy)styrene is formed by reacting the isolated p-(2-hydroxyethoxy)benzaldehyde with methyltriphenylphosphonium bromide in the presence of sodium amide.

reactant | p-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | ethylene carbonate | C1(OCCO1)=O | C3H4O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | p-(2-hydroxyethoxy)styrene | OCCOC1=CC=C(C=C)C=C1 | C10H12O2
